### PR TITLE
Add remaining exercises to Imp

### PR DESCRIPTION
**Pull request by dsainati1**
Adds remaining untranslated exercises to Imp, also cleans up style

### CODE REVIEW

File: HL/Imp.lean [hunk 1]
```diff
@@ -1661,40 +1664,637 @@ theorem no_whiles_terminating' (c : Com) (st1 : State)
...
+::::
+
+::::exercise (rating := 4) (name := "ceval_deterministic")
+```lean
+theorem ceval_deterministic (c : Com) (st st₁ st₂ : State) (s₁ s₂ : Result)
+  (h₁ : st =[ ~c ]=> st₁ // s₁)
+  (h₂ : st =[ ~c ]=> st₂ // s₂) :
+  st₁ = st₂ ∧ s₁ = s₂ := by
+  solution!
+    induction h₁ generalizing st₂ s₂ with (try (inversion h₂ <;> lia))
```
Comment (dsainati1) [inline HL/Imp.lean:2224]: I would be curious to see if someone can golf this solution

File: HL/Imp.lean [hunk 2]
```diff
@@ -1661,40 +1664,632 @@ theorem no_whiles_terminating' (c : Com) (st1 : State)
...
+  | asgn (x : Ident) (a : Aexp)
+  | seq (c₁ c₂ : Com)
+  | cond (b : Bexp) (c₁ c₂ : Com)
+  | whileDo (b : Bexp) (c : Com)
+```
+
+:::details "Notation encoding: commands, macro rules"
+```lean
+/-- Imp commands -/
+declare_syntax_cat break_imp_com
```
Comment (xhalo32) [inline HL/Imp.lean]: We should avoid new syntax categories and just extend the notation with `local`. See Hoare.lean for reference

**Comment by xhalo32** [comment]
The new syntax and delaborators are unnecessary. I can fix those.

**Comment by xhalo32** [comment]
I rewrote the syntax of breakImp. I also removed the HasEval and HasTriple syntax with command terms to make them a bit simpler, as well as improved delaboration of HasEval. Tell me if you don't want them as part of this PR and I can move them away.

File: HL/Imp.lean [hunk 3]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+
+Note that it is unspecified what to do when encountering an
+{name}`sPlus`, {name}`sMinus`, or {name}`sMult` instruction if the stack contains
+fewer than two elements.  In a sense, it is immaterial what we do,
+since a correct compiler will never emit such a malformed program.
+But for sake of later exercises, it would be best to skip the
+offending instruction and continue with the next one.
+
+```lean
+def s_execute (st : State) (stack : List Nat) (prog : List Sinstr) : List Nat :=
```
Comment (xhalo32) [inline HL/Imp.lean]: Should be camelCase or maybe `Sinstr.execute`? However it takes a `List Sinstr` so maybe the second option is not idiomatic

File: HL/Imp.lean [hunk 4]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+  solution!
+    rfl
+```
+
+Next, write a function that compiles an {name}`Aexp` into a stack
+machine program. The effect of running the program should be the
+same as pushing the value of the expression on the stack.
+
+```lean
+def s_compile (a : Aexp) : List Sinstr :=
```
Comment (xhalo32) [inline HL/Imp.lean]: camelCase

File: HL/Imp.lean [hunk 5]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+Write an alternate version of `BExp.eval` that performs short-circuit
+evaluation of `BAnd` in this manner, and prove that it is
+equivalent to `BExp.eval`.  (N.b. This is only true because expression
+evaluation in Imp is rather simple.  In a bigger language where
+evaluating an expression might diverge, the short-circuiting `and`
+would _not_ be equivalent to the original, since it would make more
+programs terminate.)
+
+```lean
+def Bexp.eval_sc (st : State) (b : Bexp) : Bool := solution!(
```
Comment (xhalo32) [inline HL/Imp.lean]: camelCase

File: HL/Imp.lean [hunk 6]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+  | .neq  a₁ a₂  =>  a₁.eval st != a₂.eval st
+  | .le   a₁ a₂  =>  a₁.eval st ≤  a₂.eval st
+  | .gt   a₁ a₂  =>  a₁.eval st >  a₂.eval st
+  | .not  b₁     =>  !b₁.eval_sc st
+  | .and  b₁ b₂  =>  match (b₁.eval_sc st) with
+                    | false => false
+                    | true => b₂.eval_sc st)
+
+-- This exercise turned out to be easier than we intended!
+theorem beval__beval_sc (st : State) (b : Bexp) :
```
Comment (xhalo32) [inline HL/Imp.lean]:
```suggestion
theorem Bexp.eval_eq_evalSc (st : State) (b : Bexp) :
```

File: HL/Imp.lean [hunk 7]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+  b.eval st = b.eval_sc st := by
+  solution!
+    induction b <;> simp_all [Bexp.eval_sc] <;> lia
```
Comment (xhalo32) [inline HL/Imp.lean]: Should use characterizing lemmas instead of unfolding the definition

File: HL/Imp.lean [hunk 8]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+the resulting stack, and executing `p₂` from that stack. Prove
+that fact.
+
+```lean
+theorem execute_app (st : State) (p₁ p₂ : List Sinstr) (stack : List Nat) :
+  s_execute st stack (p₁ ++ p₂) = s_execute st (s_execute st stack p₁) p₂ := by
+  solution!
+    induction p₁ generalizing p₂ stack with
+    | nil => rfl
+    | cons a p' ih => cases a <;> rcases stack with _ | ⟨_, _ | ⟨_, _⟩⟩ <;> simp_all [s_execute]
```
Comment (xhalo32) [inline HL/Imp.lean]: I'd prefer not unfolding `s_execute` here but introducing characterizing `@[simp]` lemmas instead.

File: HL/Imp.lean [hunk 9]
```diff
@@ -1657,53 +1646,570 @@ And here is an alternative solution by induction on `c` (using
...
+previous exercise.  Begin by proving the following lemma. If it
+becomes difficult, consider whether your implementation of
+`s_execute` or `s_compile` could be simplified.
+
+```lean
+theorem s_compile_correct_aux (st : State) (a : Aexp) (stack : List Nat) :
+  s_execute st stack (s_compile a) = Aexp.eval st a :: stack := by
+  solution!
+    induction a generalizing st stack <;>
+      simp_all [s_compile, List.append_assoc, execute_app] <;>
```
Comment (xhalo32) [inline HL/Imp.lean]: Should use characterizing lemmas instead of unfolding the definition

File: HL/Imp.lean (hunk 8 above)
Comment (dsainati1) [reply HL/Imp.lean]: In this particular case the wildcards in `sExecute`'s definition make writing out all the characterizing lemmas really tedious. Remind me why we are not teaching students about `@[simp]` on definitions?
